US05965559
Using an analogous procedure to that described in Example 1, 1-(4-pyridyl)piperidine-4-carbonyl chloride hydrochloride salt was reacted with N-(2-aminoethyl)-2-(2-naphthalenesulphonamido)acetamide hydrochloride salt to give 2-(2-naphthalenesulphonamido)-N-{2-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]ethyl}acetamide in 49% yield, m.p. 107-109° C.;

reactant | 1-(4-pyridyl)piperidine-4-carbonyl chloride hydrochloride salt | Cl.N1=CC=C(C=C1)N1CCC(CC1)C(=O)Cl
reactant | N-(2-aminoethyl)-2-(2-naphthalenesulphonamido)acetamide hydrochloride salt | Cl.NCCNC(CNS(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O
product | 2-(2-naphthalenesulphonamido)-N-{2-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]ethyl}acetamide | 49% yield | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NCC(=O)NCCNC(=O)C1CCN(CC1)C1=CC=NC=C1 | C25H29N5O4S
